US07579360B2
Compound 6A. Azepane-1-carbonyl chloride
To a solution of azepane (2 g, 20.2 mmol) in 30 mL of anhydrous toluene was added DIEA (3.5 mL, 20.0 mmol) and pyridine (1.63 mL, 20.2 mmol). The mixture was cooled to −10° C. under nitrogen. Once at the prescribed temperature, carbon dioxide gas was bubbled through the solution for 30 min, and then a solution of thionyl chloride (1.74 mL, 24.0 mmol) in 10 mL of toluene was added at −10° C. Upon completion of addition, the reaction mixture was stirred for 1 hr while the temperature was kept under 10° C. The reaction mixture was then diluted with ethyl acetate, washed with cold 0.5 N HCl solution and brine, dried over Na2SO4, and concentrated to give the title compound (2.76 g, 85%) as a pale yellow oil.

reactant | azepane | 20.2 mmol, 2 g | N1CCCCCC1 | C6H13N
reactant | DIEA | 20.0 mmol, 3.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | pyridine | 20.2 mmol, 1.63 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 24.0 mmol, 1.74 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Azepane-1-carbonyl chloride | 2.76 g, 85% | N1(CCCCCC1)C(=O)Cl | C7H12ClNO
